US07351719B2
126) N-{3-chloro-4-[2-(ethyl-phenyl-amino)-ethoxy]-phenyl}-2-(2-chloro-4-trifluoromethyl-phenoxy)-acetamide
The product was obtained according to general working method V starting from 0.422 g (0.616 mmol) N-[3-chloro-4-(2-oxo-ethoxy)-phenyl]-2-(2-chloro-4-trifluoromethyl-phenoxy)-acetamide (Z3d) and 0.094 mL (0.739 mmol) N-ethylaniline.

reactant | N-[3-chloro-4-(2-oxo-ethoxy)-phenyl]-2-(2-chloro-4-trifluoromethyl-phenoxy)-acetamide | 0.616 mmol, 0.422 g | ClC=1C=C(C=CC1OCC=O)NC(COC1=C(C=C(C=C1)C(F)(F)F)Cl)=O | C17H12Cl2F3NO4
reactant | N-ethylaniline | 0.739 mmol, 0.094 mL | C(C)NC1=CC=CC=C1 | C8H11N
product | N-{3-chloro-4-[2-(ethyl-phenyl-amino)-ethoxy]-phenyl}-2-(2-chloro-4-trifluoromethyl-phenoxy)-acetamide | ClC=1C=C(C=CC1OCCN(C1=CC=CC=C1)CC)NC(COC1=C(C=C(C=C1)C(F)(F)F)Cl)=O | C25H23Cl2F3N2O3
